US09284335B2
Step B: 9-(2-oxa-5-azabicyclo[2.2.1]heptan-5-ylmethyl)-6-(4-methoxybenzyl)pyrido[3,2-e][1,2,4]triazolo[1,5-c]pyrimidin-5(6H)-one.
6-(4-Methoxybenzyl)-5-oxo-5,6-dihydropyrido[3,2-e][1,2,4]triazolo[1,5-c]pyrimidine-9-carbaldehyde (49 mg, 0.15 mmol), 2-oxa-5-azabicyclo[2.2.1]heptane (49 mg, 0.36 mmol), ACN (1 mL), TEA (0.051 mL, 0.37 mmol) and acetic acid (0.040 mL, 0.69 mmol) were combined and stirred for 10 minutes. Sodium cyanoborohydride (18 mg, 0.29 mmol) was added and the mixture was stirred for 18 h at room temperature. The mixture was diluted with methanol, filtered, and purified by preparative HPLC to afford the title compound (35 mg, 45%) as the trifluoroacetic acid salt as a white solid. 1H NMR (400 MHz, CDCl3) δ 2.25 (d, J=11.42 Hz, 1H), 2.43 (br s, 1H), 3.44-3.63 (m, 2H), 3.76 (s, 3H), 3.91 (d, J=10.42 Hz, 1H), 4.37-4.53 (m, 3H), 4.56-4.65 (m, 1H), 4.73 (s, 1H), 5.74 (s, 2H), 6.76-6.91 (m, 2H), 7.60 (d, J=8.78 Hz, 2H), 8.38 (s, 1H), 8.83 (s, 1H), 9.08 (s, 1H). [M+H]=419.2.

reactant | 6-(4-Methoxybenzyl)-5-oxo-5,6-dihydropyrido[3,2-e][1,2,4]triazolo[1,5-c]pyrimidine-9-carbaldehyde | 0.15 mmol, 49 mg | COC1=CC=C(CN2C(N3C(C4=C2N=CC(=C4)C=O)=NC=N3)=O)C=C1 | C17H13N5O3
reactant | 2-oxa-5-azabicyclo[2.2.1]heptane | 0.36 mmol, 49 mg | C12OCC(NC1)C2 | C5H9NO
reactant | acetic acid | 0.69 mmol, 0.040 mL | C(C)(=O)O | C2H4O2
reactant | Sodium cyanoborohydride | 0.29 mmol, 18 mg | C(#N)[BH3-].[Na+]
solvent | methanol | CO | CH4O
solvent | ACN | 1 mL | C(C)#N | C2H3N
product | 9-(2-oxa-5-azabicyclo[2.2.1]heptan-5-ylmethyl)-6-(4-methoxybenzyl)pyrido[3,2-e][1,2,4]triazolo[1,5-c]pyrimidin-5(6H)-one | 35 mg, 45% | C12OCC(N(C1)CC1=CC=3C=4N(C(N(C3N=C1)CC1=CC=C(C=C1)OC)=O)N=CN4)C2 | C22H22N6O3
